US06046192
To a stirred suspension of (1S)-1-(4-benzyloxyphenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]-ethanol (1.30 g) and N,N-diisopropylethylamine (2.91 ml) in dichloromethane (16.7 ml) was added trifluoroacetic anhydride (1.41 ml) at -15° C. After reaction for 20 minutes, water was poured into the reaction mixture and the resulting mixture was extracted with dichloromethane. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. The resulting residue was dissolved in N,N-dimethylformamide (8.6 ml), and 2-bromo-N,N-dimethylacetamide (571 mg), cesium carbonate (2.52 g) and molecular sieves 4A powder (860 mg) were added to the solution. After reaction at room temperature for 2.5 hours, water and methanol were added to the reaction mixture under ice-cooling and the resulting mixture was stirred at room temperature for 12 hours. The insoluble material was filtered off and the filtrate was concentrated in vacuo. The resulting residue was dissolved in ethyl acetate, washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Recrystallization of the residue from diethyl ether gave 2-[(2S)-2-[[(2S)-2-(4-benzyloxyphenyl)-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide (437 mg) having a melting point of 103-106° C.

reactant | (1S)-1-(4-benzyloxyphenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]-ethanol | 1.30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H](CN[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H27NO3
reactant | N,N-diisopropylethylamine | 2.91 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic anhydride | 1.41 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 16.7 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-[(2S)-2-[[(2S)-2-(4-benzyloxyphenyl)-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide | 437 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H](CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)O | C29H34N2O4
